US07781598B2
A solution of (4-nitro-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester (5.0 g, 19 mmol) in ethyl acetate (75 ml) was hydrogenated under 3 bar hydrogen pressure in the presence of a wet 1% Pt/C catalyst paste (38 w/w, 0.7 g) until hydrogen uptake ceased (3 hours). The reaction mixture was filtered through kieselguhr and the solids washed with ethyl acetate (75 ml). The filtrate and wash were combined with solutions obtained from 2 previous experiments which had been carried out in a similar maimer, each on a 2 g scale, and evaporated to dryness to provide (4-amino-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester, 8.59 g, >100% as a brown oil which solidified on standing.

reactant | (4-nitro-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester | 19 mmol, 5.0 g | [N+](=O)([O-])C1=C2C=C(N(C2=CC=C1)CC(=O)OCC)C | C13H14N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pt/C | [Pt] | Pt
product | (4-amino-2-methyl-1H-indol-1-yl)-acetic acid, ethyl ester | NC1=C2C=C(N(C2=CC=C1)CC(=O)OCC)C | C13H16N2O2
